US04052216
Production of 1,1,3,3-tetramethyl-6-isononyl5-hydroxy-indane (compound No. 10).
760 g 1,1,3,3-tetramethyl-5-hydroxy-indane, 2000 g tripropylene and 10 ml borofluoride-etherate are stirred for 1.5 hours at 20° to 25° C whilst being cooled with water. Then 30 g white-lime hydrate are added and stirred for 1 hour at 50° C. The reaction mixture is removed from the lime and the excess tripropylene is distilled off in a water stream vacuum to an absorbtion temperature of 150° C. The residue consists of 1268 g 1,1,3,3-tetramethyl-6-isononyl-5-hydroxy-indane in the form of a yellowish viscous oil.

reactant | 1,1,3,3-tetramethyl-5-hydroxy-indane | 760 g | CC1(CC(C2=CC(=CC=C12)O)(C)C)C | C13H18O
reactant | tripropylene | 2000 g | CCCCC(C)C(C)C.CCCC(C)CC(C)C.CC(C)CC(C)C(C)C | 3C9H20
reactant | lime hydrate | [OH-].[OH-].[Ca+2]
solvent | water | O | H2O
product | 1,1,3,3-tetramethyl-6-isononyl5-hydroxy-indane | CC1(CC(C2=CC(=C(C=C12)CCCCCCC(C)C)O)(C)C)C | C22H36O
